US03960861
4-Amino-6,7,8-trimethoxy-2-(5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)quinazoline
The procedure described in Example 1 was followed to prepare the above compound, starting from 4-amino-2-chloro-6,7,8-trimethoxyquinazoline and using 5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinoline as the reagent of choice on the same molar basis as before. In this particular instance, the final product was obtained as the free base compound, m.p. 193°-195°C.

reactant | 4-amino-2-chloro-6,7,8-trimethoxyquinazoline | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)Cl | C11H12ClN3O3
reactant | 5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinoline | COC1=C2CCNCC2=CC(=C1OC)OC | C12H17NO3
product | 4-Amino-6,7,8-trimethoxy-2-(5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)quinazoline | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)N1CC2=CC(=C(C(=C2CC1)OC)OC)OC | C23H28N4O6
